2125-01-01 05:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2124-12-31**] 08:00 PM
 ARTERIAL LINE - START [**2124-12-31**] 08:47 PM
 BLOOD CULTURED - At [**2124-12-31**] 09:08 PM
 URINE CULTURE - At [**2124-12-31**] 09:08 PM
 NASAL SWAB - At [**2124-12-31**] 09:08 PM
 MIDLINE - START [**2124-12-31**] 09:14 PM
 SPUTUM CULTURE - At [**2124-12-31**] 11:02 PM
 STOOL CULTURE - At [**2125-1-1**] 03:36 AM
   -- FeNa: 0.3
   -- IVF 5L
   -- had to titrate up dopamine and switched to levophed due to
   tachycardia.
   -- Unable to do CT as pt vomited contrast
   -- started hydrocort 50mg q6
   -- surgery consulted
   -- will need CVL
   -- sputum growing GPC and GNR
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2124-12-31**] 09:00 PM
   Meropenem - [**2124-12-31**] 11:04 PM
   Metronidazole - [**2124-12-31**] 11:53 PM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2124-12-31**] 11:04 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-1**] 05:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 111 (88 - 111) bpm
   BP: 94/51(67) {72/44(-12) - 119/63(78)} mmHg
   RR: 20 (13 - 29) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  3,581 mL
                                                                  2,766 mL
   PO:
             TF:
   IVF:
                                                                  3,581 mL
                                                                  2,766 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    775 mL
   Urine:
                                                                    550 mL
                                                                    725 mL
   NG:
                                                                    950 mL
   Stool:
   50 mL
   Drains:
   Balance:
                                                                  2,081 mL
                                                                  1,991 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 64
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.36/43/99.[**Numeric Identifier 128**]/21/-1
   Ve: 12.2 L/min
   PaO2 / FiO2: 165
   Physical Examination
   GEN: chronically ill appearing, cushingoid features, no acute distress
   HEENT: EOMI, PERRL, dry MM
   NECK: No JVD,  no cervical lymphadenopathy, trachea midline
   COR: RRR, no M/G/R, normal S1 S2
   PULM: bibasilar crackles otherwise clear
   ABD: PEG in place mild erythema around site, distended, TTP in lower
   abdomen, +BS
   EXT: No C/C/E
   NEURO: alert, oriented to person, place, and time. CN II
 XII grossly
   intact. Moves all 4 extremities.
   SKIN: diffuse erythema over the back, multiple skin breakdown and
   ecchymoses.
   Labs / Radiology
   297 K/uL
   8.1 g/dL
   85 mg/dL
   1.2 mg/dL
   21 mEq/L
   4.0 mEq/L
   39 mg/dL
   101 mEq/L
   134 mEq/L
   24.5 %
   27.4 K/uL
        [image002.jpg]
                             [**2124-12-31**]  07:51 PM
                             [**2124-12-31**]  09:16 PM
                             [**2125-1-1**]  01:08 AM
                             [**2125-1-1**]  03:30 AM
   WBC
   30.5
   27.4
   Hct
   27.5
   24.5
   Plt
   312
   297
   Cr
   1.5
   1.2
   TCO2
   24
   25
   Glucose
   79
   85
   Other labs: PT / PTT / INR:11.8/35.0/1.0, ALT / AST:7/32, Alk Phos / T
   Bili:426/0.3, Amylase / Lipase:/9, Differential-Neuts:96.8 %, Band:0.0
   %, Lymph:1.9 %, Mono:1.0 %, Eos:0.2 %, Lactic Acid:0.8 mmol/L,
   Albumin:2.4 g/dL, LDH:254 IU/L, Ca++:8.1 mg/dL, Mg++:1.5 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
   Assesment: This is a 58 year-old male with a history of CML s/p BMT
   [**2121**] complicated by GVHD, h/o PE & DVT, bronchiectasis and
   bronchiolitis obliterans related to GVHD, intermittent ventilator
   dependence who presents from [**Hospital 630**] Rehab with hypotension.
   .
   Plan:
   # Shock - Patient hypotensive currently requiring levophed.  Given the
   patient's immunocompromised state and ventilator dependence infectious
   source is concerning.  The differential dx is broad, but given severe
   leukocytosis of 30K and 2 days of diarrhea it is most concerning for C.
   diff. Other possible sources include pulmonary source.  Pt with history
   of resistant organisms including VRE, ESBL, pseudomonas,
   stenotrophomonas. Other sources include UTI given + UA. Although degree
   of leukocytosis and absence of urinary or pulmonary symptoms makes pna
   or urosepsis less likely. Pt also is at risk for atypical infections
   given immunocompromised state, although he has been on ppx with bactrim
   (although recently restarted), voriconazole, tobramycin, azithro &
   acyclovir.  Additionally, pt my be volume depleted from diarrhea.  Also
   on the differential is cardiogenic, but unlikely.
   - po vanco and IV flagyl for c. diff colitis presenting with
   hypotension
   -  CT-scan of the abd/pelvis to eval for colitis
   - Surgery consult recs
   - will need to place Central venous line
   - IV fluids to goal CVP 8-12
   - IV fluid boluses and Levophed if needed to maintain MAP > 65 and UOP
   > 30cc/hr
   - Broad spectrum antiobiotics with Vanco/Meropenem (day1: [**12-31**])
   - cont hydrocort 50mg q6
   - trend lactate
   - Follow-up blood, urine and sputum cultures
   - f/u stool studies
   - cont ppx with bactrim, voriconazole, acyclovir, azithro, tobra
   - check CMV VL
   - Trend WBC count fever curve
   - plan to hold narcotics while hypotensive
   .
   #. Acute Kidney Injury: Pt Cr 1.5 on admission. baseline of 0.7-0.9.
   Improved to 1.2 with IVF. FeNa 0.3  Likely pre-renal (improved with
   IVF) vs ATN in the setting of persisent hypotension.
   - IVF
   - renally dose meds and avoid nephrotoxins
   - trend creatinine
   #. Respiratory Failure: Pt intermittently ventilator dependent.  He
   underwent trach on last admission due to hypoxia. Pt settings at OSH
   were AC Vt:600, RR:20, FiO2: 60%, PEEP:5.
   - cont current ventilator setting and wean O2 as tolerated
   - infectious workup for respiratory source as above
   - cont outpt nebs
   .
   #. CML s/p BMTs, complicated by chronic GVHD
   - plan to continue mycophenolate mofetil
   - d/c prednisone given initiated hydrocort
   - cont ppx bactim, voriconazole, tobramycin, azithro and acyclovir.
   - BMT is aware and will f/u on recs
   .
   #. Hx of PE, DVT:  He has had multiple prior thrombotic events.
   - cont lovenox 40mg q12 per prior regimen
   .
   # Atrial fibrillation: Patient has a history of PAF.
   - will hold po rate control meds given hypotension
   - will give IV metoprolol prn for rates > 100
   - pt on lovenox for anti-coagulation
   .
   # Depression: cont citalopram
   .
   #. FEN: hold TF given nausea/vomiting
   .
   #. Access: PIV and midline
   - will need to place CVL
   .
   #. Code Status: FULL Code
   .
   #. PPx: lovenox, PPI, bowel regimen prn
   .
   #. Communication: His emergency contact was [**Name (NI) 167**] [**Name (NI) 10959**]
   (sister) [**0-0-**].
   cell: ([**Telephone/Fax (1) 11616**] or [**Telephone/Fax (1) 11617**] home [**Telephone/Fax (1) 10572**], office
   [**Telephone/Fax (1) 11618**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2124-12-31**] 08:36 PM
   Arterial Line - [**2124-12-31**] 08:47 PM
   Midline - [**2124-12-31**] 09:14 PM
   18 Gauge - [**2124-12-31**] 11:02 PM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Pt seen and evaluated with team on rounds. Please see above note for
   details of history and plan.
   In addition:
   58 yr man with CML s/p BMT in [**2121**] complic by GVHD and bronchiolitis
   obliterans, Pes, DVT
s on lovenox. Transferred from [**Hospital1 630**] for
   hypotension and presumed sepsis. During last admit
 PEG/trach for
   failure to wean.
   At [**Hospital1 630**] WBC 18 K started on Vanco/Cefipime. Transferred to ED.
   Overnight 5 Liters IV fluid, unable to wean pressors
 switched to
   Levophed
   WBC up to 30 here
   Surgery aware
   Sputum
 GPC
s/GNR
   Vanco and Meropenem started
   7.34/41/105 on AC 60%
   Hct 24.5
   HCO3 -21
   CXR
 LLL infiltrate
   Flat Plate: Dilated stomach
   PLAN: Cultures pending. Antibiotics as above for Sepsis as well as fro
   C Diff
               Agree with stress steroids
               Central Line this AM
               Pressors to maintain MAP ~60
               Volume repletion as per plan above
               Gastric Outlet Obstruction
 [**Doctor First Name 458**] consult pending/will
   repeat Flat Plate/Abdom CT when possible
   Time Spent: 60 min
   Pt is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) 326**] [**Last Name (NamePattern1) 1136**], MD
   on:[**2125-1-1**] 09:47 ------

2125-01-02 06:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2125-1-1**] 10:47 AM
 MIDLINE - STOP [**2125-1-2**] 04:00 AM
   -- Central line placed (RIJ)
   -- C diff positive
   -- d/c'd CT abdomen
   -- CVP ~[**2-20**], received 2L LR and 1L NS
   -- Weaning down levophed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2125-1-1**] 08:00 AM
   Azithromycin - [**2125-1-1**] 12:00 PM
   Bactrim (SMX/TMP) - [**2125-1-1**] 12:00 PM
   Acyclovir - [**2125-1-1**] 10:00 PM
   Voriconazole - [**2125-1-2**] 12:15 AM
   Meropenem - [**2125-1-2**] 06:18 AM
   Vancomycin - [**2125-1-2**] 06:18 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2125-1-1**] 08:00 AM
   Lansoprazole (Prevacid) - [**2125-1-1**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-2**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.9
C (98.4
   HR: 104 (92 - 116) bpm
   BP: 119/92(102) {89/51(65) - 139/92(102)} mmHg
   RR: 22 (19 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 12 (6 - 12)mmHg
   Total In:
                                                                  7,253 mL
                                                                  2,283 mL
   PO:
   TF:
   IVF:
                                                                  7,013 mL
                                                                  2,163 mL
   Blood products:
   Total out:
                                                                  1,741 mL
                                                                    580 mL
   Urine:
                                                                  1,541 mL
                                                                    280 mL
   NG:
                                                                    150 mL
                                                                    300 mL
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                  5,512 mL
                                                                  1,703 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 19 cmH2O
   Plateau: 10 cmH2O
   SpO2: 100%
   ABG: 7.33/36/134/17/-6
   Ve: 15.2 L/min
   PaO2 / FiO2: 223
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   324 K/uL
   8.7 g/dL
   119 mg/dL
   1.3 mg/dL
   17 mEq/L
   4.1 mEq/L
   34 mg/dL
   104 mEq/L
   134 mEq/L
   26.4 %
   35.0 K/uL
        [image002.jpg]
                             [**2124-12-31**]  07:51 PM
                             [**2124-12-31**]  09:16 PM
                             [**2125-1-1**]  01:08 AM
                             [**2125-1-1**]  03:30 AM
                             [**2125-1-1**]  06:42 AM
                             [**2125-1-1**]  03:01 PM
                             [**2125-1-1**]  03:15 PM
                             [**2125-1-2**]  04:08 AM
                             [**2125-1-2**]  04:33 AM
   WBC
   30.5
   27.4
   35.0
   35.0
   Hct
   27.5
   24.5
   24.6
   26.4
   Plt
   [**Telephone/Fax (3) 11624**]24
   Cr
   1.5
   1.2
   1.2
   1.3
   TCO2
   24
   25
   23
   21
   20
   Glucose
   79
   85
   113
   119
   Other labs: PT / PTT / INR:11.6/34.7/1.0, ALT / AST:[**3-8**], Alk Phos / T
   Bili:345/0.2, Amylase / Lipase:/9, Differential-Neuts:96.8 %, Band:0.0
   %, Lymph:1.9 %, Mono:1.0 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.4 g/dL, LDH:203 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Assessment and Plan
   Assesment: This is a 58 year-old male with a history of CML s/p BMT
   [**2121**] complicated by GVHD, h/o PE & DVT, bronchiectasis and
   bronchiolitis obliterans related to GVHD, intermittent ventilator
   dependence who presents from [**Hospital 630**] Rehab with hypotension.
   .
   Plan:
   # C Diff colitis - Patient initially hypotensive requiring levophed,
   weaned off overnight. C diff positive, making this likely shock from c
   diff colitis.  All other culture data negative.  Now off pressors as of
   5 am.  Given SOB, concern for intra-abdominal perforation.  No free air
   visible on our read of KUB.
   - call surgery
   - f/u final read KUB
   - po vanco and IV flagyl for c. diff colitis presenting with
   hypotension (day 1
 [**12-31**])
   - stop meropenem and IV vancomycin given  no other evidence of
   infectious source
   - continue stress-dose steroids for one more day
   - Pressors to goal CVP 8-12 (will not give more IVF for now)
   - Levophed if needed to maintain MAP > 65 and UOP > 30cc/hr
   - Follow-up blood, urine and sputum cultures
   - cont ppx with bactrim, voriconazole, acyclovir, azithro, tobra
   - f/u CMV VL
   - Trend WBC count fever curve daily
   - plan to hold narcotics while hypotensive
   - ABG and lactate 1500
   #. Acute Kidney Injury: Pt Cr 1.5 on admission. baseline of 0.7-0.9.
   Improved to 1.2 with IVF. FeNa 0.3  Likely pre-renal (improved with
   IVF) vs ATN in the setting of persisent hypotension.
   - renally dose meds and avoid nephrotoxins
   - trend creatinine
   #. Respiratory Failure: Now has volume overload in addition to baseline
   intermittently ventilator dependent.  He underwent trach on last
   admission due to hypoxia. Pt settings at OSH were AC Vt:600, RR:20,
   FiO2: 60%, PEEP:5.
   - cont current ventilator setting and wean O2 as tolerated
   - infectious workup for respiratory source as above
   - cont outpt nebs
   #. CML s/p BMTs, complicated by chronic GVHD
   - plan to continue mycophenolate mofetil
   - restart prednisone when hydrocort is stopped (likely tomorrow)
   - cont ppx bactim, voriconazole, tobramycin, azithro and acyclovir.
   - BMT is aware and will f/u on recs
   .
   #. Hx of PE, DVT:  He has had multiple prior thrombotic events.
   - cont lovenox 40mg q12 per prior regimen
   # Atrial fibrillation: Patient has a history of PAF. Currently in
   sinus.
   - continue PRN metoprolol
   - pt on lovenox for anti-coagulation
   # Opiate requirement:  has previously required high doses of narcotics,
   currently on lower dose
   - monitor for sx of withdrawal
   # Depression: cont citalopram
   #. FEN: hold TF given nausea/vomiting
   #. Access: PIV and midline
   - will need to place CVL
   #. Code Status: FULL Code
   .
   #. PPx: lovenox, PPI, bowel regimen prn
   #. Communication: His emergency contact was [**Name (NI) 167**] [**Name (NI) 10959**]
   (sister) [**0-0-**].
   cell: ([**Telephone/Fax (1) 11616**] or [**Telephone/Fax (1) 11617**] home [**Telephone/Fax (1) 10572**], office
   [**Telephone/Fax (1) 11618**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2124-12-31**] 08:36 PM
   Arterial Line - [**2124-12-31**] 08:47 PM
   18 Gauge - [**2124-12-31**] 11:02 PM
   Multi Lumen - [**2125-1-1**] 10:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
   ------ Protected Section ------
   MICU Attdg:
   I saw and examined the pt, and was present with the ICU team for the
   key portions of services provided. I agree with Dr. [**Last Name (STitle) 7370**]
s note,
   including assessment and plan.
   58 yo male with CML s/p BMT, chronic GVHD with bronchiolitis
   obliteratns, PE/DVT, trach for respiratory failure admitted with :
   *Cdiff colitis
   *Acute on chronic resp failure
   *septic shock
   Remains hypotensive with distended abd, minimal BS on Vanc/flagyl,
   stress dose steroids. Off pressors this morning, but since resumed
   Plans-
   *continue vanc/flagyl for Cdiff colitis
   *ID consult for further recs re regimen
   *Surgery consult given severity of Cdiff and distended abdominal exam
   *CT abd if pt can tolerate contrast
   *Suppportive care with levophed to maintain MAP>60, fluids
   *Current vent settings appear adequate for pt
s acute failure, no
   active weaning given his other acute issues
   Pt is critically ill. Total time spent: 45 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2125-1-2**] 15:21 ------

2125-01-02 11:11:00 Physician Attending Progress Note
Chief Complaint: Hypotension, C.diff
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 MULTI LUMEN - START [**2125-1-1**] 10:47 AM
 MIDLINE - STOP [**2125-1-2**] 04:00 AM
   C.diff positive, on po vanco, iv flagyl. c/o SOB this am while on the
   vent.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Metronidazole - [**2125-1-1**] 08:00 AM
   Azithromycin - [**2125-1-1**] 12:00 PM
   Bactrim (SMX/TMP) - [**2125-1-1**] 12:00 PM
   Acyclovir - [**2125-1-1**] 10:00 PM
   Voriconazole - [**2125-1-2**] 12:15 AM
   Meropenem - [**2125-1-2**] 06:18 AM
   Vancomycin - [**2125-1-2**] 08:51 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-1-1**] 12:00 PM
   Enoxaparin (Lovenox) - [**2125-1-2**] 08:45 AM
   Omeprazole (Prilosec) - [**2125-1-2**] 08:45 AM
   Other medications:
   colace, miconazole, lidocaine patch, lansoprazole, vitamin D, calcium
   carobonate, falgyl 500 iv q8, vanco 1g iv q12, [**Female First Name (un) **] nebs [**Hospital1 **],
   acyclovir, cellcept, aziothr tiw, lovenox s/c, celexa, MVI,
   chlorhexidine, atrovent q6, bactrim, hydrocort, levophed drip off,
   vanco oral 125mg po q6, voriconazole, meropenem 400 iv q8, zofran prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-2**] 11:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 114 (92 - 117) bpm
   BP: 96/55(69) {93/51(66) - 139/92(102)} mmHg
   RR: 22 (19 - 25) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 15 (6 - 15)mmHg
   Total In:
                                                                  7,253 mL
                                                                  2,603 mL
   PO:
   TF:
   IVF:
                                                                  7,013 mL
                                                                  2,363 mL
   Blood products:
   Total out:
                                                                  1,741 mL
                                                                    670 mL
   Urine:
                                                                  1,541 mL
                                                                    370 mL
   NG:
                                                                    150 mL
                                                                    300 mL
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                  5,512 mL
                                                                  1,933 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: FiO2 > 60%
   PIP: 12 cmH2O
   Plateau: 10 cmH2O
   SpO2: 98%
   ABG: 7.33/36/134/17/-6
   Ve: 14.9 L/min
   PaO2 / FiO2: 268
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: No(t) PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, No(t) Tender: , exam obscured by somnlence
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm, diffuse erythematous rash, skin seaping edema fluid
   Neurologic: Responds to: Verbal stimuli, Movement: No spontaneous
   movement, Tone: Normal, somnolent
   Labs / Radiology
   8.7 g/dL
   324 K/uL
   119 mg/dL
   1.3 mg/dL
   17 mEq/L
   4.1 mEq/L
   34 mg/dL
   104 mEq/L
   134 mEq/L
   26.4 %
   35.0 K/uL
        [image002.jpg]
                             [**2124-12-31**]  07:51 PM
                             [**2124-12-31**]  09:16 PM
                             [**2125-1-1**]  01:08 AM
                             [**2125-1-1**]  03:30 AM
                             [**2125-1-1**]  06:42 AM
                             [**2125-1-1**]  03:01 PM
                             [**2125-1-1**]  03:15 PM
                             [**2125-1-2**]  04:08 AM
                             [**2125-1-2**]  04:33 AM
   WBC
   30.5
   27.4
   35.0
   35.0
   Hct
   27.5
   24.5
   24.6
   26.4
   Plt
   [**Telephone/Fax (3) 11624**]24
   Cr
   1.5
   1.2
   1.2
   1.3
   TCO2
   24
   25
   23
   21
   20
   Glucose
   79
   85
   113
   119
   Other labs: PT / PTT / INR:11.6/34.7/1.0, ALT / AST:[**3-8**], Alk Phos / T
   Bili:345/0.2, Amylase / Lipase:/9, Differential-Neuts:96.8 %, Band:0.0
   %, Lymph:1.9 %, Mono:1.0 %, Eos:0.2 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.4 g/dL, LDH:203 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.5
   mg/dL
   Imaging: CXR reviewed RIJ in position,
   KUB ready pending, ? distended colon
   Microbiology: + Cdiff
   CMV viral load pending
   Assessment and Plan
   C.diff: severe, on vanco po, iv flagyl, will d/c vanco iv, and iv
   meroepnem. will obtain surgical consul likely qualifies fro early
   colectomy, and KUB read. Will attempt abdominal CT. Diarrhea a little
   improved, but wbc still up at 35. follow up [**Hospital1 **] lactate and ABG to
   assess for acidosis. Increased Vanco po to 250 q6. Consult ID for ?
   monoclonal IvIG.
   Hypotension/sepsis: weaned off pressors, on stress dose steroids,
   continue to monitor off IVF resuicitation due to massive anasarca, if
   he dropps his BP further will d/w surgery.
   ARF: elevated cr c/w baseline at 1.3 will monitor goal MAP >65
   RESPIRATORY FAILURE, CHRONIC: continue vent support while acutely ill.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2124-12-31**] 08:36 PM
   Arterial Line - [**2124-12-31**] 08:47 PM
   18 Gauge - [**2124-12-31**] 11:02 PM
   Multi Lumen - [**2125-1-1**] 10:47 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2125-01-03 07:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2125-1-2**] 08:55 PM
   -CT Abdomen (Non-Contrast): No free air, no pneumatosis, no
   perforation, bowel wall 9mm.
   - Increased PO/PR vancomycin to 500mg Q6
   - Red cell casts in urine, ? AIN likely from [**Last Name (un) **] or Cefepime (Not Vanc
   or Flagyl).  UOP increased overnight with fluid challenge
   -Continued on Levophed 0.5 overnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2125-1-1**] 12:00 PM
   Bactrim (SMX/TMP) - [**2125-1-1**] 12:00 PM
   Meropenem - [**2125-1-2**] 06:18 AM
   Acyclovir - [**2125-1-2**] 08:00 PM
   Metronidazole - [**2125-1-3**] 12:00 AM
   Voriconazole - [**2125-1-3**] 12:00 AM
   Vancomycin - [**2125-1-3**] 06:13 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2125-1-2**] 08:45 AM
   Omeprazole (Prilosec) - [**2125-1-2**] 08:45 AM
   Lorazepam (Ativan) - [**2125-1-2**] 10:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-3**] 07:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.1
   HR: 109 (105 - 121) bpm
   BP: 102/64(77) {76/55(68) - 122/81(93)} mmHg
   RR: 22 (21 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 8 (6 - 15)mmHg
   Total In:
                                                                  4,219 mL
                                                                    773 mL
   PO:
   TF:
   IVF:
                                                                  3,139 mL
                                                                    653 mL
   Blood products:
   Total out:
                                                                    813 mL
                                                                    865 mL
   Urine:
                                                                    513 mL
                                                                    125 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
                                                                    140 mL
   Balance:
                                                                  3,406 mL
                                                                    -92 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: 7.34/31/91.[**Numeric Identifier 96**]/16/-7
   Ve: 16.6 L/min
   PaO2 / FiO2: 184
   Physical Examination
   GEN: chronically ill appearing, cushingoid features, looking
   uncomfortable
   HEENT: EOMI, PERRL, dry MM
   NECK: No JVD,  no cervical lymphadenopathy, trachea midline
   COR: RRR, no M/G/R, normal S1 S2
   PULM: bibasilar crackles otherwise clear
   ABD: PEG in place mild erythema around site, abdomen very distended,
   TTP in lower abdomen, +BS
   EXT: No C/C/E
   NEURO: alert, oriented to person, place, and time. CN II
 XII grossly
   intact. Moves all 4 extremities.
   SKIN: diffuse erythema over the back, multiple skin breakdown and
   ecchymoses.
   Labs / Radiology
   280 K/uL
   10.1 g/dL
   117 mg/dL
   1.9 mg/dL
   16 mEq/L
   4.1 mEq/L
   43 mg/dL
   103 mEq/L
   132 mEq/L
   30.9 %
   42.4 K/uL
        [image002.jpg]
                             [**2125-1-1**]  01:08 AM
                             [**2125-1-1**]  03:30 AM
                             [**2125-1-1**]  06:42 AM
                             [**2125-1-1**]  03:01 PM
                             [**2125-1-1**]  03:15 PM
                             [**2125-1-2**]  04:08 AM
                             [**2125-1-2**]  04:33 AM
                             [**2125-1-2**]  10:44 AM
                             [**2125-1-3**]  04:29 AM
                             [**2125-1-3**]  04:40 AM
   WBC
   27.4
   35.0
   35.0
   42.4
   Hct
   24.5
   24.6
   26.4
   30.9
   Plt
   297
   301
   324
   280
   Cr
   1.2
   1.2
   1.3
   1.9
   TCO2
   25
   23
   21
   20
   21
   17
   Glucose
   85
   113
   119
   117
   Other labs: PT / PTT / INR:12.1/37.4/1.0, ALT / AST:[**3-8**], Alk Phos / T
   Bili:345/0.2, Amylase / Lipase:/9, Differential-Neuts:96.8 %, Band:0.0
   %, Lymph:1.9 %, Mono:1.0 %, Eos:0.2 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.4 g/dL, LDH:203 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.4
   mg/dL
   Fluid analysis / Other labs: U/A: Color [**Location (un) **]
   Appear Cloudy  SpecGr 1.017  pH 5.5  Urobil 2  Bili Neg  Leuk Sm  Bld
   Tr  Nitr
   Neg  Prot 30  Glu Neg  Ket Tr
   RBC 7  WBC 0  Bact Many  Yeast None  Epi
   0
   Comments: URINE CastCel: Rbc Cast
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTENSION
 RESPIRATORY FAILURE, CHRONIC
   This is a 58 year-old male with a history of CML s/p BMT [**2121**]
   complicated by GVHD, h/o PE & DVT, bronchiectasis and bronchiolitis
   obliterans related to GVHD, intermittent ventilator dependence who
   presents from [**Hospital 630**] Rehab with hypotension, found to have C. diff
   colitis.
   # C. diff colitis with septic shock - Patient initially hypotensive
   requiring levophed, which was weaned off yesterday but restarted
   overnight due to hypotension. Now with oliguria. All other culture data
   negative.  Abd CT [**2125-1-2**] showed no perf.
   - consider emergent surgery; surgery to discuss with family
   - Levophed if needed to maintain MAP > 65 and UOP > 30cc/hr
   - bolus now with 500 cc NS; monitor u/o, stool output, BP closely
   - continue PO & PR vanco 500mg Q6 and IV metronidazole (day 1
 [**12-31**])
   - start tigecycline per ID recs
   - f/u surgery recs, ID recs
   - continue stress-dose steroids for one more day
   - f/u blood, urine and sputum cultures
   - cont ppx with bactrim, voriconazole, acyclovir, azithro, tobra
   - f/u CMV VL
   - plan to hold narcotics while hypotensive
   #. Acute Kidney Injury: Pt Cr 1.5 on admission. baseline of 0.7-0.9.
   Improved to 1.2 with IVF, but slowly increasing to 1.9 today. Recent
   FeNa 0.3%. Likely pre-renal vs ATN in the setting of persisent
   hypotension.
   - treat shock as above
   - renally dose meds and avoid nephrotoxins
   - trend creatinine
   #. Respiratory Failure: Now has volume overload in addition to baseline
   intermittently ventilator dependent.  He underwent trach on last
   admission due to hypoxia. Pt settings at OSH were AC Vt:600, RR:20,
   FiO2: 60%, PEEP:5.
   - cont current ventilator setting and wean O2 as tolerated
   - infectious workup for respiratory source as above
   - cont outpt nebs
   #. CML s/p BMTs, complicated by chronic GVHD
   - hold mycophenolate mofetil; discuss with oncology
   - hydrocort to q8h
   - cont ppx bactim, voriconazole, tobramycin, azithro and acyclovir.
   - BMT is aware and will f/u on recs
   .
   #. Hx of PE, DVT:  He has had multiple prior thrombotic events.
   - hold enoxaparin, switch to hep gtt given possible surgery
   # Atrial fibrillation: Patient has a history of PAF. Currently in
   sinus.
   - continue PRN metoprolol
   - pt on lovenox for anti-coagulation
   # Opiate requirement:  has previously required high doses of narcotics,
   currently on lower dose
   - monitor for sx of withdrawal
   # Depression/Anxiety: cont citalopram
   #. FEN: hold TF given nausea/vomiting
   #. Access: CVL
   #. Code Status: FULL Code
   .
   #. PPx: lovenox, PPI, bowel regimen prn
   #. Communication: His emergency contact was [**Name (NI) 167**] [**Name (NI) 10959**]
   (sister) [**0-0-**].
   cell: ([**Telephone/Fax (1) 11616**] or [**Telephone/Fax (1) 11617**] home [**Telephone/Fax (1) 10572**], office
   [**Telephone/Fax (1) 11618**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2124-12-31**] 08:36 PM
   Arterial Line - [**2124-12-31**] 08:47 PM
   18 Gauge - [**2124-12-31**] 11:02 PM
   Multi Lumen - [**2125-1-1**] 10:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-01-03 09:11:00 Physician Attending Progress Note
Chief Complaint: C.diff diarrhea
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 URINE CULTURE - At [**2125-1-2**] 08:55 PM
   Stayed on levophed at 0.05, U/O picked up after 500cc urine output. CT
   no free air no pneumatosis no megacolon. Started on Tigecylcine per
   ID's recommendation. Given 1mg of morphine this am for abdominal pain.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2125-1-2**] 06:18 AM
   Acyclovir - [**2125-1-2**] 08:00 PM
   Voriconazole - [**2125-1-3**] 12:00 AM
   Vancomycin - [**2125-1-3**] 06:13 AM
   Metronidazole - [**2125-1-3**] 07:59 AM
   Azithromycin - [**2125-1-3**] 07:59 AM
   Bactrim (SMX/TMP) - [**2125-1-3**] 07:59 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2125-1-2**] 08:45 AM
   Lorazepam (Ativan) - [**2125-1-2**] 10:30 AM
   Lansoprazole (Prevacid) - [**2125-1-3**] 08:01 AM
   Enoxaparin (Lovenox) - [**2125-1-3**] 08:01 AM
   Morphine Sulfate - [**2125-1-3**] 08:26 AM
   Other medications:
   colace [**Hospital1 **], miconazole, lidocaine, lansoprazole, vitamin D, calcium
   carbonate, flagyl 500 iv q8, tobramycin inhaled [**Hospital1 **], acyclovir,
   azithromycin po tiw, cellcept [**Pager number **] in am, 250qpm, lovenox s/c q12,
   celexa, MVI, chlorhexidine, bactrim 10ml daily, hydrocort 50 iv q6,
   levophed 0.03, voriconazole po q12, vanco enema 500 pr qid, vanco 500po
   q6, tigecylcine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-3**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 117 (105 - 125) bpm
   BP: 104/70(81) {76/55(68) - 122/81(93)} mmHg
   RR: 27 (21 - 29) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 5 (5 - 15)mmHg
   Total In:
                                                                  4,219 mL
                                                                  1,012 mL
   PO:
   TF:
   IVF:
                                                                  3,139 mL
                                                                    762 mL
   Blood products:
   Total out:
                                                                    813 mL
                                                                    930 mL
   Urine:
                                                                    513 mL
                                                                    190 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
                                                                    140 mL
   Balance:
                                                                  3,406 mL
                                                                     82 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 4
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 13 cmH2O
   SpO2: 97%
   ABG: 7.34/31/91.[**Numeric Identifier 96**]/16/-7
   Ve: 16.6 L/min
   PaO2 / FiO2: 184
   Physical Examination
   General Appearance: No(t) No acute distress, Anxious, shaking head to
   command
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), tachy
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: No(t) Soft, Bowel sounds present, Distended, Tender:
   diffusely, more distended
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Cool
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   10.1 g/dL
   280 K/uL
   117 mg/dL
   1.9 mg/dL
   16 mEq/L
   4.1 mEq/L
   43 mg/dL
   103 mEq/L
   132 mEq/L
   30.9 %
   42.4 K/uL
        [image002.jpg]
                             [**2125-1-1**]  01:08 AM
                             [**2125-1-1**]  03:30 AM
                             [**2125-1-1**]  06:42 AM
                             [**2125-1-1**]  03:01 PM
                             [**2125-1-1**]  03:15 PM
                             [**2125-1-2**]  04:08 AM
                             [**2125-1-2**]  04:33 AM
                             [**2125-1-2**]  10:44 AM
                             [**2125-1-3**]  04:29 AM
                             [**2125-1-3**]  04:40 AM
   WBC
   27.4
   35.0
   35.0
   42.4
   Hct
   24.5
   24.6
   26.4
   30.9
   Plt
   297
   301
   324
   280
   Cr
   1.2
   1.2
   1.3
   1.9
   TCO2
   25
   23
   21
   20
   21
   17
   Glucose
   85
   113
   119
   117
   Other labs: PT / PTT / INR:12.1/37.4/1.0, ALT / AST:[**3-8**], Alk Phos / T
   Bili:345/0.2, Amylase / Lipase:/9, Differential-Neuts:96.8 %, Band:0.0
   %, Lymph:1.9 %, Mono:1.0 %, Eos:0.2 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.4 g/dL, LDH:203 IU/L, Ca++:7.3 mg/dL, Mg++:1.9 mg/dL, PO4:4.4
   mg/dL
   Imaging: CT abdomen disussed with surgeon, and radiologist.
   Microbiology: gram negative rods in the sputum
   Assessment and Plan
   Shock: septic with renal failure. From C.diff colitis. Volume
   resustation on going, given an additional 500cc now and assess
   q30minutes. Continue vanco po/pr, flagyl iv, will start tigecyline per
   ID. Decreased stress dose to q8.
   C.diff colitis: lactate increasing, more acidemic, abdomen more
   distended, wbc increased. Will ask heme onc if we can d/c cellcept.
   Will continue ongoing discussion with surgery,w e are concerned that
   window of opportunity to operate on him is closing.  change as many
   oral meds to iv as possible.
   ARF: likley ATN, vs prerenal.. sediment reported ? RBC casts
   exceedingly unlikely to have GN on cellcept and associated C.diff..will
   resend.. will continue hydration, electrolyte monitoring. Adjust meds
   to renal function
   Chronic respiratory failure: continue vent support at the current
   settings, not able to wean currenlty due to overwhelming sepsis and
   critical C.diff. PIP 15.
   DVT: will d/c lovenox and start heparin drip without bolus.
   Will meet with family to discuss goals and whether surgery would be an
   option.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   22 Gauge - [**2124-12-31**] 08:36 PM
   Arterial Line - [**2124-12-31**] 08:47 PM
   18 Gauge - [**2124-12-31**] 11:02 PM
   Multi Lumen - [**2125-1-1**] 10:47 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr. [**First Name (STitle) 10399**]
   note, including assessment and plan. 58 yo male s/p BMT with chronic
   GVHD, bronchiolitis obliterans, resp failure s/p trach, admitted with
   CDiff colitis and severe sepsis.
   Despite abx coverage with flagyl/vanco (PO/PR) he has continued to
   deteriorate with worsening multiorgan failure- shock requiring
   pressors, increasing acidosis, acute renal failure, tachypnea/abdominal
   pain, worsening leukocytosis, acute on chronic resp failure.
   Discussed with surgery and ID with recommendations for surgery- however
   after discussion of pt
s overall poor status, the magnitude of the
   operation, and high likelihood of poor prognosis/lengthy post-op
   course, his family has opted not to proceed with surgery. They
   recognize that medical management is not likely to be enough to
   adequately manage his CDiff colitis.
   Remains on flagyl, vanco, and adding tigecycline.
   On pressors, ventilator support with no plans to wean.
   Goals are to maintain current level of care and to facilitate pt
   comfort. If he were to deteriorate to the point of cardiac arrest, his
   family agrees that chest compressions/shock would not add significantly
   to his overall care, except to potentially cause him more discomfort.
   After further discussion, he is DNR. We will continue to keep in close
   contact with the family, but they are leaning toward re-addressing
   goals of care if there is no significant improvement in his status by
   tomorrow.
   Pt is critically ill.
   Total time spent; 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2125-1-3**] 16:16 ------

2125-01-04 09:57:00 Physician Attending Progress Note
Chief Complaint: Severe C.diff colitis.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Lost Arterial line A-line. DNR/DNI. Levophed titrated up to 0.12
   yesterday, hasnot changed in the last 12hours. Increased fever to
   100.6.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2125-1-2**] 06:18 AM
   Azithromycin - [**2125-1-3**] 07:59 AM
   Bactrim (SMX/TMP) - [**2125-1-3**] 07:59 AM
   Vancomycin - [**2125-1-3**] 01:54 PM
   Acyclovir - [**2125-1-3**] 10:00 PM
   Metronidazole - [**2125-1-4**] 12:00 AM
   Voriconazole - [**2125-1-4**] 12:00 AM
   Infusions:
   Heparin Sodium - 950 units/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2125-1-3**] 02:50 PM
   Morphine Sulfate - [**2125-1-3**] 06:18 PM
   Lorazepam (Ativan) - [**2125-1-3**] 07:25 PM
   Other medications:
   lidocaine patch, lansoprazole, flagyl, tobramycin, celexa, vanco po/pr,
   atrovent, bactrim, heparin iv, hydrocort 50 q8,  acyclovir,
   azithromycin, MVI, voriconazole, tigecylcine 50 q12, morphine prn,
   dilaudid iv, ativan iv
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-4**] 09:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.8
C (100.1
   HR: 105 (103 - 137) bpm
   BP: 83/48(56) {76/46(55) - 145/73(90)} mmHg
   RR: 24 (22 - 41) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 5 (5 - 8)mmHg
   Bladder pressure: 11 (11 - 11) mmHg
                               Total In:
                                                                  2,398 mL
                                                                    511 mL
   PO:
                               TF:
   IVF:
                                                                  2,048 mL
                                                                    451 mL
   Blood products:
   Total out:
                                                                  1,731 mL
                                                                     85 mL
   Urine:
                                                                    316 mL
                                                                     85 mL
   NG:
                                                                    275 mL
   Stool:
   Drains:
                                                                    140 mL
   Balance:
                                                                    667 mL
                                                                    426 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 12 cmH2O
   SpO2: 95%
   ABG: 7.33/29/99.[**Numeric Identifier 253**]/18/-9
   Ve: 19 L/min
   PaO2 / FiO2: 167
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic, cushinoid
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Abdominal: No(t) Soft, No(t) Non-tender, Bowel sounds present,
   Distended, No(t) Tender:
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+, weaping edema from the hands bilaterally
   Skin:  Cool, cool extremities, warm chest and abdomen
   Neurologic: Responds to: Unresponsive, Movement: No spontaneous
   movement, Tone: Normal
   Labs / Radiology
   10.0 g/dL
   196 K/uL
   140 mg/dL
   2.5 mg/dL
   18 mEq/L
   4.6 mEq/L
   61 mg/dL
   102 mEq/L
   129 mEq/L
   31.6 %
   43.1 K/uL
        [image002.jpg]
                             [**2125-1-1**]  06:42 AM
                             [**2125-1-1**]  03:01 PM
                             [**2125-1-1**]  03:15 PM
                             [**2125-1-2**]  04:08 AM
                             [**2125-1-2**]  04:33 AM
                             [**2125-1-2**]  10:44 AM
                             [**2125-1-3**]  04:29 AM
                             [**2125-1-3**]  04:40 AM
                             [**2125-1-3**]  12:16 PM
                             [**2125-1-4**]  05:30 AM
   WBC
   35.0
   35.0
   42.4
   43.1
   Hct
   24.6
   26.4
   30.9
   31.6
   Plt
   [**Telephone/Fax (3) 11661**]96
   Cr
   1.2
   1.3
   1.9
   2.5
   TCO2
   23
   21
   20
   21
   17
   16
   Glucose
   113
   119
   117
   140
   Other labs: PT / PTT / INR:16.0/141.5/1.4, ALT / AST:[**3-8**], Alk Phos / T
   Bili:345/0.2, Amylase / Lipase:/9, Differential-Neuts:96.8 %, Band:0.0
   %, Lymph:1.9 %, Mono:1.0 %, Eos:0.2 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.4 g/dL, LDH:203 IU/L, Ca++:6.8 mg/dL, Mg++:2.0 mg/dL, PO4:5.6
   mg/dL
   Microbiology: no new since [**12-31**]
   Assessment and Plan
   Septic shock: source is C.diff colitis. continue vanco po/pr,
   tigecylcine, IVIG, iv flagyl. Supportive care with IVF. wbc slightly
   up, lactate rising, more acidemic, renal failure worsening. continue
   volume resusitation. goal CVp 8-12. HCP opted against surgery for
   colectomy.
   Renal Failure: worsening, somewhat more acidemic, electolytes still in
   reasonable rise. will follow up electrolytes close. more hyponatremic,
   continue volume resusitation. goal CVp 8-12
   Fever: pan culture, obtain CXR.. will not broaden empirically given
   severe lifethreating C.diff.
   Respiratory failrue: continue supportive care not able to wean off due
   to abdominal sepsis.
   FEN: holding tube feeds due to high residuals.
   DVT/PE: on heparin iv
   Hyponatremia: continue IVF resusitation.  recheck set of electrolytes
   later today.
   Pain: use dilaudid over morphine due to worsening renal failure.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-1-1**] 10:47 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr.[**Name (NI) 11665**]
   note above, including assessment and plan. I would add:
   58 yo male with CML s/p BMT, GVHD, resp failure s/p trach, DVT,
   bronchiolitis obliterans with severe CDiff colitis and sepsis. He
   continues to do poorly with worsening acute renal failure, continued
   acidosis, leukocytosis, acute on chronic respiratory failure. Remains
   on po/IV vanco, flagyl, tigcycline for Cdiff. No obvious other
   infectious source, but will pan-culture and re-check CXR. Adjust
   pressors to maintain MAP, mechanical ventilation with no plans to wean
   vent settings. Acute renal failure presumably from hypotension/ATN-
   will volume resuscitate as CVP low, monitor electrolytes
   Pt is critically ill. Total time spent: 50 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2125-1-4**] 12:57 ------

2125-01-04 14:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2125-1-3**] 01:00 PM
   -clinically deteriorating, metabolic acidosis, worsening leukocytosis,
   belly getting bigger
   -d/w primary HCP (sister [**Last Name (un) 11666**] and secondary HCP
   extensively.....declined surgery, changed to DNR/DNI but continue trach
   support and abx
   -still on levophed with MAPs~60-70
   -given IVIG x 1 for low IgG + c diff(per ID)
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Meropenem - [**2125-1-2**] 06:18 AM
   Azithromycin - [**2125-1-3**] 07:59 AM
   Voriconazole - [**2125-1-4**] 12:00 AM
   Bactrim (SMX/TMP) - [**2125-1-4**] 08:00 AM
   Metronidazole - [**2125-1-4**] 08:44 AM
   Vancomycin - [**2125-1-4**] 09:00 AM
   Acyclovir - [**2125-1-4**] 11:00 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Hydromorphone (Dilaudid) - [**2125-1-3**] 02:50 PM
   Lansoprazole (Prevacid) - [**2125-1-4**] 08:33 AM
   Lorazepam (Ativan) - [**2125-1-4**] 11:00 AM
   Morphine Sulfate - [**2125-1-4**] 11:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-4**] 02:43 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.4
   HR: 101 (101 - 137) bpm
   BP: 90/50(59) {76/40(50) - 120/73(82)} mmHg
   RR: 21 (21 - 41) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 5 (5 - 8)mmHg
   Total In:
                                                                  2,533 mL
                                                                  1,632 mL
   PO:
   TF:
   IVF:
                                                                  2,048 mL
                                                                  1,317 mL
   Blood products:
                                                                    135 mL
                                                                    165 mL
   Total out:
                                                                  1,731 mL
                                                                    190 mL
   Urine:
                                                                    316 mL
                                                                    190 mL
   NG:
                                                                    275 mL
   Stool:
   Drains:
                                                                    140 mL
   Balance:
                                                                    802 mL
                                                                  1,442 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///18/
   Ve: 16.1 L/min
   Physical Examination
   GEN: chronically ill appearing, cushingoid features, minimally
   responsive to commands
   HEENT: EOMI, PERRL, dry MM
   NECK: No JVD,  no cervical lymphadenopathy, trachea midline
   COR: RRR, no M/G/R, normal S1 S2
   PULM: bibasilar crackles otherwise clear
   ABD: PEG in place mild erythema around site, abdomen very distended,
   rare BS
   EXT: No C/C/E
   SKIN: diffuse erythema over the back, multiple skin breakdown and
   ecchymoses.
   Labs / Radiology
   196 K/uL
   10.0 g/dL
   140 mg/dL
   2.5 mg/dL
   18 mEq/L
   4.6 mEq/L
   61 mg/dL
   102 mEq/L
   129 mEq/L
   31.6 %
   43.1 K/uL
        [image002.jpg]
                             [**2125-1-1**]  06:42 AM
                             [**2125-1-1**]  03:01 PM
                             [**2125-1-1**]  03:15 PM
                             [**2125-1-2**]  04:08 AM
                             [**2125-1-2**]  04:33 AM
                             [**2125-1-2**]  10:44 AM
                             [**2125-1-3**]  04:29 AM
                             [**2125-1-3**]  04:40 AM
                             [**2125-1-3**]  12:16 PM
                             [**2125-1-4**]  05:30 AM
   WBC
   35.0
   35.0
   42.4
   43.1
   Hct
   24.6
   26.4
   30.9
   31.6
   Plt
   [**Telephone/Fax (3) 11661**]96
   Cr
   1.2
   1.3
   1.9
   2.5
   TCO2
   23
   21
   20
   21
   17
   16
   Glucose
   113
   119
   117
   140
   Other labs: PT / PTT / INR:14.4/102.3/1.2, ALT / AST:10/35, Alk Phos /
   T Bili:317/0.2, Amylase / Lipase:/9, Differential-Neuts:96.8 %,
   Band:0.0 %, Lymph:1.9 %, Mono:1.0 %, Eos:0.2 %, Lactic Acid:1.9 mmol/L,
   Albumin:2.4 g/dL, LDH:203 IU/L, Ca++:6.8 mg/dL, Mg++:2.0 mg/dL, PO4:5.6
   mg/dL
   Assessment and Plan
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ACUTE PAIN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
   This is a 58 year-old male with a history of CML s/p BMT [**2121**]
   complicated by GVHD, h/o PE & DVT, bronchiectasis and bronchiolitis
   obliterans related to GVHD, intermittent ventilator dependence who
   presents from [**Hospital 630**] Rehab with hypotension, found to have C. diff
   colitis.
   # C. diff colitis with septic shock - Patient is requiring escalating
   dose of norepinephrine. With oliguria. Abd CT [**2125-1-2**] showed no perf.
   Family declined surgery. IVIG and tigecycline added yesterday. WBC
   still very elevated in mid 40s. Minimal stool output now.
   - continue PO and PR vancomycin, metronidazole, tigecycline
 already
   received IVIG; increase metronidazole to q6h
   - pressor as needed to maintain BP and urine output
   - continue stress-dose steroids
   - re-check blood, urine and sputum cultures
   - d/c bactrim, voriconazole, azithro per ID; continue acyclovir, tobra
   inh
   - discuss goal of care as below
   # Goal of care: family is aware of patient
s grim diagnosis. Outpatient
   oncologist, Dr. [**Last Name (STitle) 1750**], is aware and following. Code status has been
   changed to DNR/DNI.
   - continue to update family
   - continue to update all providers involved
   #. Acute Kidney Injury: Pt Cr 1.5 on admission. baseline of 0.7-0.9.
   Improved to 1.2 with IVF, but slowly increasing to 2.5 today. Likely
   poor renal perfusion due to intravascular depletion, also in setting of
   high intraabdominal pressure. Makes about 10 cc of urine per hour.
   - treat shock as above
   - renally dose meds and avoid nephrotoxins
   - trend creatinine
   #. Respiratory Failure: Now has volume overload in addition to baseline
   intermittently ventilator dependent.  He underwent trach on last
   admission due to hypoxia. Pt settings at OSH were AC Vt:600, RR:20,
   FiO2: 60%, PEEP:5.
   - cont current ventilator setting and wean O2 as tolerated
   - infectious workup for respiratory source as above
   - cont outpt nebs
   #. CML s/p BMTs, complicated by chronic GVHD
   - hold mycophenolate mofetil; discussed with oncology
   - hydrocort to q8h
   - change prophylactic regimen as above
   .
   #. Hx of PE, DVT:  He has had multiple prior thrombotic events.
   - hold enoxaparin, switch to hep gtt given possible surgery
   # Atrial fibrillation: Patient has a history of PAF. Currently in
   sinus.
   - continue PRN metoprolol
   - pt on lovenox for anti-coagulation
   # Opiate requirement:  has previously required high doses of narcotics,
   currently on lower dose
   - monitor for sx of withdrawal
   # Depression/Anxiety: cont citalopram
   #. FEN: hold TF given nausea/vomiting
   #. Access: CVL
   #. Code Status: DNR/DNI
   .
   #. PPx: lovenox, PPI, bowel regimen prn
   #. Communication: His emergency contact was [**Name (NI) 167**] [**Name (NI) 10959**]
   (sister) [**0-0-**].
   cell: ([**Telephone/Fax (1) 11616**] or [**Telephone/Fax (1) 11617**] home [**Telephone/Fax (1) 10572**], office
   [**Telephone/Fax (1) 11618**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-1-1**] 10:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-01-05 06:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2125-1-4**] 11:30 AM
 URINE CULTURE - At [**2125-1-4**] 11:54 AM
 SPUTUM CULTURE - At [**2125-1-4**] 05:45 PM
 FEVER - 101.1
F - [**2125-1-5**] 04:00 AM
   - continues to third-space IVF
   - still requires norepinephrine and IVF boluses
   - family does not want to escalate care
   - stopped TMP/SMX, azithro per ID
   - increased metronidazole to q6h
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2125-1-3**] 07:59 AM
   Bactrim (SMX/TMP) - [**2125-1-4**] 08:00 AM
   Metronidazole - [**2125-1-4**] 08:00 PM
   Vancomycin - [**2125-1-4**] 11:00 PM
   Acyclovir - [**2125-1-4**] 11:22 PM
   Voriconazole - [**2125-1-5**] 12:42 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-1-4**] 08:33 AM
   Morphine Sulfate - [**2125-1-4**] 11:00 AM
   Lorazepam (Ativan) - [**2125-1-4**] 08:58 PM
   Hydromorphone (Dilaudid) - [**2125-1-4**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-5**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.4
C (101.1
   HR: 127 (97 - 127) bpm
   BP: 127/72(85) {78/40(50) - 133/72(85)} mmHg
   RR: 33 (20 - 33) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 6 (5 - 328)mmHg
   Total In:
                                                                  3,595 mL
                                                                    359 mL
   PO:
   TF:
   IVF:
                                                                  3,160 mL
                                                                    359 mL
   Blood products:
                                                                    165 mL
   Total out:
                                                                    540 mL
                                                                    135 mL
   Urine:
                                                                    440 mL
                                                                    135 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  3,055 mL
                                                                    224 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 65
   PIP: 18 cmH2O
   SpO2: 99%
   ABG: 7.30///16/
   Ve: 16.3 L/min
   Physical Examination
   GEN: chronically ill appearing, cushingoid features, minimally
   responsive to commands
   HEENT: EOMI, PERRL, dry MM
   NECK: No JVD,  no cervical lymphadenopathy, trachea midline
   COR: RRR, no M/G/R, normal S1 S2
   PULM: bibasilar crackles otherwise clear
   ABD: PEG in place mild erythema around site, abdomen very distended,
   rare BS
   EXT: No C/C/E
   SKIN: diffuse erythema over the back, multiple skin breakdown and
   ecchymoses.
   Labs / Radiology
   175 K/uL
   9.4 g/dL
   124 mg/dL
   2.7 mg/dL
   16 mEq/L
   4.8 mEq/L
   70 mg/dL
   101 mEq/L
   129 mEq/L
   30.6 %
   32.2 K/uL
        [image002.jpg]
                             [**2125-1-1**]  03:15 PM
                             [**2125-1-2**]  04:08 AM
                             [**2125-1-2**]  04:33 AM
                             [**2125-1-2**]  10:44 AM
                             [**2125-1-3**]  04:29 AM
                             [**2125-1-3**]  04:40 AM
                             [**2125-1-3**]  12:16 PM
                             [**2125-1-4**]  05:30 AM
                             [**2125-1-4**]  05:30 PM
                             [**2125-1-5**]  04:29 AM
   WBC
   35.0
   42.4
   43.1
   32.2
   Hct
   26.4
   30.9
   31.6
   30.6
   Plt
   324
   280
   196
   175
   Cr
   1.3
   1.9
   2.5
   2.5
   2.7
   TCO2
   21
   20
   21
   17
   16
   Glucose
   119
   117
   140
   284
   124
   Other labs: PT / PTT / INR:13.0/72.0/1.1, ALT / AST:10/35, Alk Phos / T
   Bili:317/0.2, Amylase / Lipase:/9, Differential-Neuts:96.8 %, Band:0.0
   %, Lymph:1.9 %, Mono:1.0 %, Eos:0.2 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.4 g/dL, LDH:203 IU/L, Ca++:6.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.7
   mg/dL
   Assessment and Plan
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ACUTE PAIN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
   This is a 58 year-old male with a history of CML s/p BMT [**2121**]
   complicated by GVHD, h/o PE & DVT, bronchiectasis and bronchiolitis
   obliterans related to GVHD, intermittent ventilator dependence who
   presents from [**Hospital 630**] Rehab with hypotension, found to have C. diff
   colitis.
   # C. diff colitis with septic shock - Patient is requiring escalating
   dose of norepinephrine. With oliguria. Abd CT [**2125-1-2**] showed no perf.
   Family declined surgery. IVIG and tigecycline added yesterday. WBC
   still very elevated in 30
s. Minimal stool output now.
   - continue PO and PR vancomycin, metronidazole, tigecycline
 already
   received IVIG; increase metronidazole to q6h
   - pressor as needed to maintain BP and urine output
   - continue stress-dose steroids
   - re-check blood, urine and sputum cultures
   - f/u ID recs
   - d/c bactrim, voriconazole, azithro per ID; continue acyclovir, tobra
   inh
   - KUB
   - discuss goal of care as below
   # Goal of care: family is aware of patient
s grim diagnosis. Outpatient
   oncologist, Dr. [**Last Name (STitle) 1750**], is aware and following. Code status has been
   changed to DNR/DNI.
   - continue to update family
   - continue to update all providers involved
   #. Acute Kidney Injury: Pt Cr 1.5 on admission. baseline of 0.7-0.9.
   Improved to 1.2 with IVF, but slowly increasing to 2.7 today. Likely
   poor renal perfusion due to intravascular depletion, also in setting of
   high intraabdominal pressure. Makes about 10 cc of urine per hour.
   - treat shock as above
   - renally dose meds and avoid nephrotoxins
   - trend creatinine
   - consider changing IV voriconazole to po
   - wil check voriconazole level
   #. Hyponatermia: Likely hypervolemic hyponatermia from ARF and poor
   UOP.
   -- cont to trend
   -- urine lytes
   #. Respiratory Failure: Now has volume overload in addition to baseline
   intermittently ventilator dependent.  He underwent trach on last
   admission due to hypoxia. Pt settings at OSH were AC Vt:600, RR:20,
   FiO2: 60%, PEEP:5.
   - cont current ventilator setting and wean O2 as tolerated
   - infectious workup for respiratory source as above
   - cont outpt nebs
   #. CML s/p BMTs, complicated by chronic GVHD
   - hold mycophenolate mofetil; discussed with oncology
   - hydrocort to q8h
   - change prophylactic regimen as above
   .
   #. Hx of PE, DVT:  He has had multiple prior thrombotic events.
   - hold enoxaparin, switch to hep gtt given possible surgery
   # Atrial fibrillation: Patient has a history of PAF. Currently in
   sinus.
   - continue PRN metoprolol
   - pt on lovenox for anti-coagulation
   # Opiate requirement:  has previously required high doses of narcotics,
   currently on lower dose
   - monitor for sx of withdrawal
   # Depression/Anxiety: cont citalopram
   #. FEN: hold TF given nausea/vomiting
   #. Access: CVL
   #. Code Status: DNR/DNI
   .
   #. PPx: heparin gtt, H2, bowel regimen prn
   #. Communication: His emergency contact was [**Name (NI) 167**] [**Name (NI) 10959**]
   (sister) [**0-0-**].
   cell: ([**Telephone/Fax (1) 11616**] or [**Telephone/Fax (1) 11617**] home [**Telephone/Fax (1) 10572**], office
   [**Telephone/Fax (1) 11618**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-1-1**] 10:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-01-05 10:56:00 Physician Attending Progress Note
Chief Complaint: hypotension
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 BLOOD CULTURED - At [**2125-1-4**] 11:30 AM
 URINE CULTURE - At [**2125-1-4**] 11:54 AM
 SPUTUM CULTURE - At [**2125-1-4**] 05:45 PM
 FEVER - 102.0
F - [**2125-1-5**] 06:00 AM
   Continues to need iVF boluses to maintain his urine output, more
   febrile this am.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2125-1-3**] 07:59 AM
   Bactrim (SMX/TMP) - [**2125-1-4**] 08:00 AM
   Acyclovir - [**2125-1-4**] 11:22 PM
   Voriconazole - [**2125-1-5**] 12:42 AM
   Vancomycin - [**2125-1-5**] 06:36 AM
   Metronidazole - [**2125-1-5**] 08:10 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Norepinephrine - 0.14 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2125-1-4**] 11:00 AM
   Hydromorphone (Dilaudid) - [**2125-1-5**] 06:35 AM
   Lorazepam (Ativan) - [**2125-1-5**] 06:36 AM
   Lansoprazole (Prevacid) - [**2125-1-5**] 08:10 AM
   Other medications:
   lidocaine patch, lansoprazole, atrovent, celexa, tobramycin, levophed
   0.14, vanco po/pr, hydrocortisone 50 q8, acyclovir, MVI, voriconazole,
   flagyl 500 q6, ativan 1-3mg prn, hydromorphone, tigeclycline
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-5**] 10:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 38.9
C (102
   Tcurrent: 38.9
C (102
   HR: 108 (97 - 127) bpm
   BP: 100/57(68) {79/40(50) - 133/73(85)} mmHg
   RR: 24 (20 - 33) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 6 (5 - 328)mmHg
   Total In:
                                                                  3,595 mL
                                                                    937 mL
   PO:
   TF:
   IVF:
                                                                  3,160 mL
                                                                    867 mL
   Blood products:
                                                                    165 mL
   Total out:
                                                                    540 mL
                                                                    280 mL
   Urine:
                                                                    440 mL
                                                                    280 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  3,055 mL
                                                                    657 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI: 65
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   Compliance: 54.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.30///16/
   Ve: 16.4 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: trach tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal), tachycardia
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, No(t) Non-tender, No(t) Bowel sounds present,
   Distended, no bowel sounds
   Extremities: Right lower extremity edema: 3+, Left lower extremity
   edema: 3+, diffuse anasarca, weaping
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   175 K/uL
   124 mg/dL
   2.7 mg/dL
   16 mEq/L
   4.8 mEq/L
   70 mg/dL
   101 mEq/L
   129 mEq/L
   30.6 %
   32.2 K/uL
        [image002.jpg]
                             [**2125-1-1**]  03:15 PM
                             [**2125-1-2**]  04:08 AM
                             [**2125-1-2**]  04:33 AM
                             [**2125-1-2**]  10:44 AM
                             [**2125-1-3**]  04:29 AM
                             [**2125-1-3**]  04:40 AM
                             [**2125-1-3**]  12:16 PM
                             [**2125-1-4**]  05:30 AM
                             [**2125-1-4**]  05:30 PM
                             [**2125-1-5**]  04:29 AM
   WBC
   35.0
   42.4
   43.1
   32.2
   Hct
   26.4
   30.9
   31.6
   30.6
   Plt
   324
   280
   196
   175
   Cr
   1.3
   1.9
   2.5
   2.5
   2.7
   TCO2
   21
   20
   21
   17
   16
   Glucose
   119
   117
   140
   284
   124
   Other labs: PT / PTT / INR:13.0/72.0/1.1, ALT / AST:10/35, Alk Phos / T
   Bili:317/0.2, Amylase / Lipase:/9, Differential-Neuts:96.8 %, Band:0.0
   %, Lymph:1.9 %, Mono:1.0 %, Eos:0.2 %, Lactic Acid:1.4 mmol/L,
   Albumin:2.4 g/dL, LDH:203 IU/L, Ca++:6.3 mg/dL, Mg++:2.3 mg/dL, PO4:5.7
   mg/dL
   Imaging: CXR yesterday LLL consolidation atelectasis vs pneumonia
   Microbiology: micro data pending.
   Assessment and Plan
   C.diff: continues on maximal medical therapy, no clear indicator of
   improvement, wbc decreased but more febrile, lack of stool output
   concerning for megacolon, will obtain KUB. prognosis remains grim..
   will discuss with oncology and primary team
   Renal failure: worsenining will d/c iv voriconazole  and chagne topo,
   continue IVF resuscitation goal CVP 8-12
   Fever; to 102 this am.. concerning for worsenining abdmoinal sepsis, no
   clear new sourse although has LLL atelectasis vs infiltrate,
   noincreased secretions and respiratory status stable so doubt
   Pneumonia, no evidence for urine infection or bacteremia will follow
   Shock: will continue IVF and pressor support.
   Respiratory failure: chronic, continue supporitve care cannot wean due
   to ongoing severe sepsis.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-1-1**] 10:47 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr.[**Name (NI) 11665**]
   note above, including assessment and plan. I would add:
   58 yo male with CML s/p BMT, GVHD, resp failure s/p trach, DVT,
   bronchiolitis obliterans with severe CDiff colitis and sepsis. He
   remains septic with worsening acute renal failure, septic shock,
   acidosis, acute on chronic respiratory failure. On po/IV vanco, flagyl,
   tigcycline for Cdiff. Prognosis remains poor.
   Plan to continue antibiotics, pressors to maintain MAP, mechanical
   ventilation. No plans for escalation of care , will continue to address
   with family.
   Pt is critically ill.
   Total time spent: 32 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2125-1-5**] 16:36 ------

2125-01-06 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.6
F - [**2125-1-6**] 06:00 AM
   - Increasing pressor requirements, T 102.9 with no tylenol absorption
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2125-1-3**] 07:59 AM
   Bactrim (SMX/TMP) - [**2125-1-4**] 08:00 AM
   Voriconazole - [**2125-1-5**] 12:42 AM
   Acyclovir - [**2125-1-5**] 09:00 PM
   Metronidazole - [**2125-1-6**] 02:40 AM
   Vancomycin - [**2125-1-6**] 06:00 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2125-1-5**] 08:10 AM
   Famotidine (Pepcid) - [**2125-1-5**] 09:00 PM
   Lorazepam (Ativan) - [**2125-1-6**] 04:15 AM
   Hydromorphone (Dilaudid) - [**2125-1-6**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-6**] 07:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 39.2
C (102.6
   Tcurrent: 39.2
C (102.6
   HR: 120 (100 - 127) bpm
   BP: 94/54(62) {76/42(52) - 109/73(76)} mmHg
   RR: 19 (15 - 28) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 2 (2 - 8)mmHg
   Total In:
                                                                  2,464 mL
                                                                    934 mL
   PO:
   TF:
   IVF:
                                                                  2,234 mL
                                                                    874 mL
   Blood products:
   Total out:
                                                                    692 mL
                                                                    230 mL
   Urine:
                                                                    692 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,772 mL
                                                                    704 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 11 cmH2O
   Plateau: 12 cmH2O
   Compliance: 85.7 cmH2O/mL
   SpO2: 98%
   ABG: ///15/
   Ve: 14.6 L/min
   Physical Examination
   GEN: chronically ill appearing, cushingoid features, minimally
   responsive to commands
   HEENT: EOMI, PERRL, dry MM
   NECK: No JVD,  no cervical lymphadenopathy, trachea midline
   COR: RRR, no M/G/R, normal S1 S2
   PULM: bibasilar crackles otherwise clear
   ABD: PEG in place mild erythema around site, abdomen very distended,
   rare BS
   EXT: No C/C/E
   SKIN: diffuse erythema over the back, multiple skin breakdown and
   ecchymoses.
   Labs / Radiology
   138 K/uL
   10.3 g/dL
   167 mg/dL
   2.8 mg/dL
   15 mEq/L
   5.1 mEq/L
   78 mg/dL
   102 mEq/L
   129 mEq/L
   31.7 %
   18.6 K/uL
        [image002.jpg]
                             [**2125-1-2**]  04:08 AM
                             [**2125-1-2**]  04:33 AM
                             [**2125-1-2**]  10:44 AM
                             [**2125-1-3**]  04:29 AM
                             [**2125-1-3**]  04:40 AM
                             [**2125-1-3**]  12:16 PM
                             [**2125-1-4**]  05:30 AM
                             [**2125-1-4**]  05:30 PM
                             [**2125-1-5**]  04:29 AM
                             [**2125-1-6**]  12:11 AM
   WBC
   35.0
   42.4
   43.1
   32.2
   18.6
   Hct
   26.4
   30.9
   31.6
   30.6
   31.7
   Plt
   324
   280
   196
   175
   138
   Cr
   1.3
   1.9
   2.5
   2.5
   2.7
   2.8
   TCO2
   20
   21
   17
   16
   Glucose
   119
   117
   140
   [**Telephone/Fax (3) 11684**]
   Other labs: PT / PTT / INR:13.2/70.6/1.1, ALT / AST:10/35, Alk Phos / T
   Bili:317/0.2, Amylase / Lipase:/9, Differential-Neuts:96.8 %, Band:0.0
   %, Lymph:1.9 %, Mono:1.0 %, Eos:0.2 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:203 IU/L, Ca++:6.4 mg/dL, Mg++:2.2 mg/dL, PO4:5.9
   mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 IMPAIRED SKIN INTEGRITY
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 SHOCK, HYPOVOLEMIC OR HEMORRHAGIC
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 C. DIFFICILE INFECTION (C DIFF, CDIFF COLITIS, CLOSTRIDIUM DIFFICILE)
 ACUTE PAIN
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 HYPOTENSION (NOT SHOCK)
 RESPIRATORY FAILURE, CHRONIC
   This is a 58 year-old male with a history of CML s/p BMT [**2121**]
   complicated by GVHD, h/o PE & DVT, bronchiectasis and bronchiolitis
   obliterans related to GVHD, intermittent ventilator dependence who
   presents from [**Hospital 630**] Rehab with hypotension, found to have C. diff
   colitis.
   # Goal of care: Based on the patient
s deteriorating clinical status, a
   decision was made with his sister to focus on comfort and not advance
   further, including the withdrawal of pressors upon her arrival.
   All other issues are ongoing but will not be actively addressed:
   # C. diff colitis with septic shock - Patient is requiring escalating
   dose of norepinephrine. With oliguria. Abd CT [**2125-1-2**] showed no perf.
   Family declined surgery. IVIG and tigecycline added yesterday. WBC
   still very elevated in 30
s. Minimal stool output now.
   - continue PO and PR vancomycin, metronidazole, tigecycline
 already
   received IVIG; increase metronidazole to q6h
   - pressor as needed to maintain BP and urine output
   - continue stress-dose steroids
   - re-check blood, urine and sputum cultures
   - f/u ID recs
   - d/c bactrim, voriconazole, azithro per ID; continue acyclovir, tobra
   inh
   - KUB
   - discuss goal of care as below
   #. Acute Kidney Injury: Pt Cr 1.5 on admission. baseline of 0.7-0.9.
   Improved to 1.2 with IVF, but slowly increasing to 2.7 today. Likely
   poor renal perfusion due to intravascular depletion, also in setting of
   high intraabdominal pressure. Makes about 10 cc of urine per hour.
   - treat shock as above
   - renally dose meds and avoid nephrotoxins
   - trend creatinine
   - consider changing IV voriconazole to po
   - wil check voriconazole level
   #. Hyponatermia: Likely hypervolemic hyponatermia from ARF and poor
   UOP.
   -- cont to trend
   -- urine lytes
   #. Respiratory Failure: Now has volume overload in addition to baseline
   intermittently ventilator dependent.  He underwent trach on last
   admission due to hypoxia. Pt settings at OSH were AC Vt:600, RR:20,
   FiO2: 60%, PEEP:5.
   - cont current ventilator setting and wean O2 as tolerated
   - infectious workup for respiratory source as above
   - cont outpt nebs
   #. CML s/p BMTs, complicated by chronic GVHD
   - hold mycophenolate mofetil; discussed with oncology
   - hydrocort to q8h
   - change prophylactic regimen as above
   .
   #. Hx of PE, DVT:  He has had multiple prior thrombotic events.
   - hold enoxaparin, switch to hep gtt given possible surgery
   # Atrial fibrillation: Patient has a history of PAF. Currently in
   sinus.
   - continue PRN metoprolol
   - pt on lovenox for anti-coagulation
   # Opiate requirement:  has previously required high doses of narcotics,
   currently on lower dose
   - monitor for sx of withdrawal
   # Depression/Anxiety: cont citalopram
   #. FEN: hold TF given nausea/vomiting
   #. Access: CVL
   #. Code Status: DNR/DNI
   .
   #. PPx: heparin gtt, H2, bowel regimen prn
   #. Communication: His emergency contact was [**Name (NI) 167**] [**Name (NI) 10959**]
   (sister) [**0-0-**].
   cell: ([**Telephone/Fax (1) 11616**] or [**Telephone/Fax (1) 11617**] home [**Telephone/Fax (1) 10572**], office
   [**Telephone/Fax (1) 11618**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-1-1**] 10:47 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held  Comments:
   Code status: DNR / DNI
   Disposition:ICU

2125-01-06 11:30:00 Physician Attending Progress Note
Chief Complaint: Severe Cdiff colitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58M with CML s/p BMT c/b GVHD with BO  p/w severe Cdiff colitis
   24 Hour Events:
 FEVER - 102.6
F - [**2125-1-6**] 06:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2125-1-4**] 08:00 AM
   Voriconazole - [**2125-1-5**] 12:42 AM
   Acyclovir - [**2125-1-5**] 09:00 PM
   Vancomycin - [**2125-1-6**] 06:00 AM
   Metronidazole - [**2125-1-6**] 08:00 AM
   Infusions:
   Heparin Sodium - 500 units/hour
   Norepinephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2125-1-5**] 09:00 PM
   Lorazepam (Ativan) - [**2125-1-6**] 04:15 AM
   Hydromorphone (Dilaudid) - [**2125-1-6**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Edema, Tachycardia
   Respiratory: Tachypnea
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: Unable to answer
   Flowsheet Data as of  [**2125-1-6**] 11:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 39.2
C (102.6
   Tcurrent: 39.1
C (102.4
   HR: 125 (100 - 127) bpm
   BP: 86/54(63) {76/42(52) - 109/63(72)} mmHg
   RR: 22 (15 - 28) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 13 (2 - 13)mmHg
   Total In:
                                                                  2,464 mL
                                                                  1,477 mL
   PO:
   TF:
   IVF:
                                                                  2,234 mL
                                                                  1,357 mL
   Blood products:
   Total out:
                                                                    692 mL
                                                                    480 mL
   Urine:
                                                                    692 mL
                                                                    330 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,772 mL
                                                                    997 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: FiO2 > 60%
   PIP: 10 cmH2O
   Plateau: 12 cmH2O
   Compliance: 85.7 cmH2O/mL
   SpO2: 99%
   Ve: 15.9 L/min
   Physical Examination
   General Appearance: tachypneic
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended
   Extremities: anasarca
   Skin:  Cool, multiple ulcers
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   138 K/uL
   167 mg/dL
   2.8 mg/dL
   15 mEq/L
   5.1 mEq/L
   78 mg/dL
   102 mEq/L
   129 mEq/L
   31.7 %
   18.6 K/uL
        [image002.jpg]
                             [**2125-1-2**]  04:08 AM
                             [**2125-1-2**]  04:33 AM
                             [**2125-1-2**]  10:44 AM
                             [**2125-1-3**]  04:29 AM
                             [**2125-1-3**]  04:40 AM
                             [**2125-1-3**]  12:16 PM
                             [**2125-1-4**]  05:30 AM
                             [**2125-1-4**]  05:30 PM
                             [**2125-1-5**]  04:29 AM
                             [**2125-1-6**]  12:11 AM
   WBC
   35.0
   42.4
   43.1
   32.2
   18.6
   Hct
   26.4
   30.9
   31.6
   30.6
   31.7
   Plt
   324
   280
   196
   175
   138
   Cr
   1.3
   1.9
   2.5
   2.5
   2.7
   2.8
   TCO2
   20
   21
   17
   16
   Glucose
   119
   117
   140
   [**Telephone/Fax (3) 11684**]
   Other labs: PT / PTT / INR:13.2/70.6/1.1, ALT / AST:10/35, Alk Phos / T
   Bili:317/0.2, Amylase / Lipase:/9, Differential-Neuts:96.8 %, Band:0.0
   %, Lymph:1.9 %, Mono:1.0 %, Eos:0.2 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:203 IU/L, Ca++:6.4 mg/dL, Mg++:2.2 mg/dL, PO4:5.9
   mg/dL
   Assessment and Plan
   Patient continues to become progressivly more hypotensive with
   decreasing UOP and persistent fever.  Discussed situation with sister
   and she has decided focus on comfort measures with exception of
   continuing mechanical ventilation.  Will stop pressors, antibiotics and
   all nonessential medications.  Begin morphine gtt for comfort/pain
   control.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-1-1**] 10:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  DNR
   Disposition :ICU
   Total time spent: 45min
   ------ Protected Section ------
   I saw and examined the pt, and was physically present with the ICU team
   for the key portions of services provided. I agree with Dr. [**Last Name (STitle) 593**]
   note above, including assessment and plan. I would add:
   58 yo male with CML s/p BMT, GVHD, resp failure s/p trach, DVT,
   bronchiolitis obliterans with severe CDiff colitis and sepsis/multi
   organ failure.
   After several days of decline with worsening shock, unchanged
   leukcytosis and persistent renal failure; family has elected to stop
   antibiotics and pressors, focusing on comfort measures. They request
   continued ventilatory support to avoid respiratory distress. Morphine
   infusion started; will continue to keep pt comfortable.
   Pt is critically ill. Total time spent: 32 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 749**] [**Last Name (NamePattern1) **], MD
   on:[**2125-1-6**] 18:36 ------

2125-01-07 06:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 102.4
F - [**2125-1-6**] 08:00 AM
   - family elected [**Year (4 digits) 617**] - all meds stopped including levophed and abx;
   specified please no change to vent for now
   - morphine gtt for comfort
   - spoke with Dr. [**Last Name (STitle) 1750**], he is aware of current situation and
   understanding
   - BMT fellow and later Dr. [**Last Name (STitle) 2183**] called and then came
   over....shocked but OK once things were explained
   - BP fell to 40s upon withdrawal of levophed, HR initially 130s, slowly
   falling to low 100s, BP 30s....
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2125-1-4**] 08:00 AM
   Voriconazole - [**2125-1-5**] 12:42 AM
   Vancomycin - [**2125-1-6**] 06:00 AM
   Metronidazole - [**2125-1-6**] 08:00 AM
   Acyclovir - [**2125-1-6**] 10:00 AM
   Infusions:
   Morphine Sulfate - 10 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2125-1-6**] 06:23 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2125-1-7**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   Tmax: 39.1
C (102.4
   Tcurrent: 39.1
C (102.4
   HR: 108 (108 - 130) bpm
   BP: 33/19(22) {33/19(22) - 105/56(68)} mmHg
   RR: 29 (19 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
    CVP: 10 (5 - 13)mmHg
   Total In:
                                                                  1,779 mL
                                                                     68 mL
   PO:
   TF:
   IVF:
                                                                  1,659 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                      0 mL
   Urine:
                                                                    550 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,079 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 60%
   RSBI Deferred: [**Year (2 digits) 617**]
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ////
   Ve: 17.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   138 K/uL
   10.3 g/dL
   167 mg/dL
   2.8 mg/dL
   15 mEq/L
   5.1 mEq/L
   78 mg/dL
   102 mEq/L
   129 mEq/L
   31.7 %
   18.6 K/uL
        [image002.jpg]
                             [**2125-1-2**]  04:08 AM
                             [**2125-1-2**]  04:33 AM
                             [**2125-1-2**]  10:44 AM
                             [**2125-1-3**]  04:29 AM
                             [**2125-1-3**]  04:40 AM
                             [**2125-1-3**]  12:16 PM
                             [**2125-1-4**]  05:30 AM
                             [**2125-1-4**]  05:30 PM
                             [**2125-1-5**]  04:29 AM
                             [**2125-1-6**]  12:11 AM
   WBC
   35.0
   42.4
   43.1
   32.2
   18.6
   Hct
   26.4
   30.9
   31.6
   30.6
   31.7
   Plt
   324
   280
   196
   175
   138
   Cr
   1.3
   1.9
   2.5
   2.5
   2.7
   2.8
   TCO2
   20
   21
   17
   16
   Glucose
   119
   117
   140
   [**Telephone/Fax (3) 11684**]
   Other labs: PT / PTT / INR:13.2/70.6/1.1, ALT / AST:10/35, Alk Phos / T
   Bili:317/0.2, Amylase / Lipase:/9, Differential-Neuts:96.8 %, Band:0.0
   %, Lymph:1.9 %, Mono:1.0 %, Eos:0.2 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:203 IU/L, Ca++:6.4 mg/dL, Mg++:2.2 mg/dL, PO4:5.9
   mg/dL
   Assessment and Plan
 COMFORT CARE ([**Telephone/Fax (3) 617**], COMFORT MEASURES)
   This is a 58 year-old male with a history of CML s/p BMT [**2121**]
   complicated by GVHD, h/o PE & DVT, bronchiectasis and bronchiolitis
   obliterans related to GVHD, intermittent ventilator dependence who
   presents from [**Hospital 630**] Rehab with hypotension, found to have C. diff
   colitis.
   # Goal of care: Based on the patient
s deteriorating clinical status, a
   decision was made with his sister to focus on comfort and not advance
   further, including the withdrawal of pressors upon her arrival.
   All other issues are ongoing but will not be actively addressed:
   # C. diff colitis with septic shock - Patient is requiring escalating
   dose of norepinephrine. With oliguria. Abd CT [**2125-1-2**] showed no perf.
   Family declined surgery. IVIG and tigecycline added yesterday. WBC
   still very elevated in 30
s. Minimal stool output now.
   - continue PO and PR vancomycin, metronidazole, tigecycline
 already
   received IVIG; increase metronidazole to q6h
   - pressor as needed to maintain BP and urine output
   - continue stress-dose steroids
   - re-check blood, urine and sputum cultures
   - f/u ID recs
   - d/c bactrim, voriconazole, azithro per ID; continue acyclovir, tobra
   inh
   - KUB
   - discuss goal of care as below
   #. Acute Kidney Injury: Pt Cr 1.5 on admission. baseline of 0.7-0.9.
   Improved to 1.2 with IVF, but slowly increasing to 2.7 today. Likely
   poor renal perfusion due to intravascular depletion, also in setting of
   high intraabdominal pressure. Makes about 10 cc of urine per hour.
   - treat shock as above
   - renally dose meds and avoid nephrotoxins
   - trend creatinine
   - consider changing IV voriconazole to po
   - wil check voriconazole level
   #. Hyponatermia: Likely hypervolemic hyponatermia from ARF and poor
   UOP.
   -- cont to trend
   -- urine lytes
   #. Respiratory Failure: Now has volume overload in addition to baseline
   intermittently ventilator dependent.  He underwent trach on last
   admission due to hypoxia. Pt settings at OSH were AC Vt:600, RR:20,
   FiO2: 60%, PEEP:5.
   - cont current ventilator setting and wean O2 as tolerated
   - infectious workup for respiratory source as above
   - cont outpt nebs
   #. CML s/p BMTs, complicated by chronic GVHD
   - hold mycophenolate mofetil; discussed with oncology
   - hydrocort to q8h
   - change prophylactic regimen as above
   .
   #. Hx of PE, DVT:  He has had multiple prior thrombotic events.
   - hold enoxaparin, switch to hep gtt given possible surgery
   # Atrial fibrillation: Patient has a history of PAF. Currently in
   sinus.
   - continue PRN metoprolol
   - pt on lovenox for anti-coagulation
   # Opiate requirement:  has previously required high doses of narcotics,
   currently on lower dose
   - monitor for sx of withdrawal
   # Depression/Anxiety: cont citalopram
   #. FEN: hold TF given nausea/vomiting
   #. Access: CVL
   #. Code Status: DNR/DNI
   .
   #. PPx: heparin gtt, H2, bowel regimen prn
   #. Communication: His emergency contact was [**Name (NI) 167**] [**Name (NI) 10959**]
   (sister) [**0-0-**].
   cell: ([**Telephone/Fax (1) 11616**] or [**Telephone/Fax (1) 11617**] home [**Telephone/Fax (1) 10572**], office
   [**Telephone/Fax (1) 11618**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-1-1**] 10:47 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2125-01-07 11:09:00 Physician Attending Progress Note
Chief Complaint: Severe Cdiff colitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   58M with CML s/p BMT now with septic shock and MOD secondary to severe
   Cdiff colitis.
   24 Hour Events:
 FEVER - 102.4
F - [**2125-1-6**] 08:00 AM
   Pt
s goal transferred to CMO.  Vasopressors stopped..
   This AM, ventilator support discontinued.
   History obtained from Family / [**Hospital 56**] Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Voriconazole - [**2125-1-5**] 12:42 AM
   Vancomycin - [**2125-1-6**] 06:00 AM
   Metronidazole - [**2125-1-6**] 08:00 AM
   Acyclovir - [**2125-1-6**] 10:00 AM
   Infusions:
   Morphine Sulfate - 16 mg/hour
   Other ICU medications:
   Morphine Sulfate - [**2125-1-7**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Ear, Nose, Throat: trach
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Respiratory: Tachypnea
   Pain: Unable to answer
   Flowsheet Data as of  [**2125-1-7**] 11:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**26**] AM
   HR: 105 (105 - 130) bpm
   BP: 89/20(29) {33/19(22) - 94/50(57)} mmHg
   RR: 33 (23 - 33) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 69 Inch
   CVP: 10 (5 - 13)mmHg
   Total In:
                                                                  1,779 mL
                                                                    121 mL
   PO:
   TF:
   IVF:
                                                                  1,659 mL
                                                                    121 mL
   Blood products:
   Total out:
                                                                    700 mL
                                                                      0 mL
   Urine:
                                                                    550 mL
   NG:
                                                                    150 mL
   Stool:
   Drains:
   Balance:
                                                                  1,079 mL
                                                                    121 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 21%
   RSBI Deferred: CMO
   PIP: 19 cmH2O
   SpO2: 96%
   Ve: 18.6 L/min
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: trach
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Rest of exam deferred as patient is comfort measures only.
   Labs / Radiology ([**1-6**], no labs today as pt is [**Name (NI) 617**]
   10.3 g/dL
   138 K/uL
   167 mg/dL
   2.8 mg/dL
   15 mEq/L
   5.1 mEq/L
   78 mg/dL
   102 mEq/L
   129 mEq/L
   31.7 %
   18.6 K/uL
        [image002.jpg]
                             [**2125-1-2**]  04:08 AM
                             [**2125-1-2**]  04:33 AM
                             [**2125-1-2**]  10:44 AM
                             [**2125-1-3**]  04:29 AM
                             [**2125-1-3**]  04:40 AM
                             [**2125-1-3**]  12:16 PM
                             [**2125-1-4**]  05:30 AM
                             [**2125-1-4**]  05:30 PM
                             [**2125-1-5**]  04:29 AM
                             [**2125-1-6**]  12:11 AM
   WBC
   35.0
   42.4
   43.1
   32.2
   18.6
   Hct
   26.4
   30.9
   31.6
   30.6
   31.7
   Plt
   324
   280
   196
   175
   138
   Cr
   1.3
   1.9
   2.5
   2.5
   2.7
   2.8
   TCO2
   20
   21
   17
   16
   Glucose
   119
   117
   140
   [**Telephone/Fax (3) 11684**]
   Other labs: PT / PTT / INR:13.2/70.6/1.1, ALT / AST:10/35, Alk Phos / T
   Bili:317/0.2, Amylase / Lipase:/9, Differential-Neuts:96.8 %, Band:0.0
   %, Lymph:1.9 %, Mono:1.0 %, Eos:0.2 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.4 g/dL, LDH:203 IU/L, Ca++:6.4 mg/dL, Mg++:2.2 mg/dL, PO4:5.9
   mg/dL
   Assessment and Plan
 COMFORT CARE (CMO, COMFORT MEASURES)
   Titrate up morphine for tachypnea, respiratory distress.
   Minimal secretions.
   Family at bedside.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2125-1-1**] 10:47 AM
   Prophylaxis:
   DVT:  not indicated
   Stress ulcer:  not indicated
   VAP:  MV discontinued
   Comments:
   Communication:  Comments:  Family who is at bedside
   Code status: Comfort measures only
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   CRITICAL CARE ATTENDING ADDENDUM
   I saw and examined Mr. [**Known lastname **] with the ICU Fellow, whose note above
   reflects my input.  I would add/emphasize that this 58 y/o man with a
   history of CML s/p BMT presented with septic shock and respiratory
   failure from severe C. difficile colitis.  Ongoing discussions with the
   patient and his family have led to a progressive move toward
   comfort-focused care.  His vasopressors had been discontinued, and this
   morning mechanical ventilation was discontinued.  He continues on
   morphine infusion, which has been escalated to help control his
   tachypnea.  On exam, he is mildly tachycardic (100s) and is breathing
   in the 20s with some retractions.  He does not appear distressed.  We
   will titrate morphine to keep respiratory rate at 25 or below; some
   challenges with this given his prior longstanding narcotic needs, so
   liberalizing his range.  Requires ICU care for medication titration
   until we ensure that he has adequate comfort.  Consider humidified air.
   Dr. [**Last Name (STitle) 593**] and I met with several members of his family, and all
   questions were answered.  Critically ill: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 149**] [**Last Name (NamePattern1) 832**], MD
   on:[**2125-1-7**] 15:49 ------